US07208497B2
4-(1-Ethylpropyl)piperazine-1-carboxylic Acid 4-nitrophenyl ester hydrochloride
To a stirred mixture of 1-(1-ethylpropyl)piperazine (156 mg, 1.0 mmol) and dry DCM (10 ml) was added 4-nitrophenyl chloroformate (201 mg, 1.0 mmol). The mixture was stirred overnight at room temperature and then diluted with DCM (50 ml). The reaction mixture was washed with 1 N NaOH (3×20 ml) and water (3×20 ml) and dried (MgSO4). The organic solution was concentrated to yield an oil that was dissolved in a 0.5 N HCl solution (15 ml). The acidic solution was concentrated and re-evaporated twice with acetonitrile to give 290 mg (81%) of the title compound as a solid. M.p. 251–253° C.

reactant | 1-(1-ethylpropyl)piperazine | 1.0 mmol, 156 mg | C(C)C(CC)N1CCNCC1 | C9H20N2
reactant | 4-nitrophenyl chloroformate | 1.0 mmol, 201 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | HCl | 0.5 N, 15 ml | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(1-Ethylpropyl)piperazine-1-carboxylic Acid 4-nitrophenyl ester hydrochloride | 290 mg, 81% | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCN(CC1)C(CC)CC | InChI=1S/C16H23N3O4.ClH/c1-3-13(4-2)17-9-11-18(12-10-17)16(20)23-15-7-5-14(6-8-15)19(21)22;/h5-8,13H,3-4,9-12H2,1-2H3;1H
